US08232286B2
(4-BROMO-2-TRIFLUOROMETHYL-PHENYL)-HYDRAZINE
A suspension of 25.6 g (0.11 mol) 4-bromo-2-(trifluoromethyl)-aniline in 125 ml of conc. hydrochloric acid is cooled to −10° C. and a solution of 7.7 g (0.11 mol) sodium nitrite in 125 ml of water is added. The reaction mixture is stirred for 3 hours at −10 to −5° C., then a solution of 103 g (0.46 mol) tin-(II)-chloride-dihydrate in 125 ml of conc. hydrochloric acid is added dropwise. The mixture is stirred for 1 hour at −5° C. The precipitate formed is suction filtered and washed with water. The aqueous mother liquor is extracted with petroleum ether, then made basic with sodium hydroxide. The precipitate formed is extracted with diethyl ether. The organic phase is dried and evaporated to dryness. Yield: 12.9 g

reactant | 4-bromo-2-(trifluoromethyl)-aniline | 0.11 mol, 25.6 g | BrC1=CC(=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | sodium nitrite | 0.11 mol, 7.7 g | N(=O)[O-].[Na+]
reactant | tin-(II)-chloride-dihydrate | 0.46 mol, 103 g | O.O.[Sn](Cl)Cl
solvent | hydrochloric acid | 125 ml | Cl | ClH
solvent | water | 125 ml | O | H2O
solvent | hydrochloric acid | 125 ml | Cl | ClH
product | (4-BROMO-2-TRIFLUOROMETHYL-PHENYL)-HYDRAZINE | BrC1=CC(=C(C=C1)NN)C(F)(F)F | C7H6BrF3N2
